US04704389
A mixture of (2,3-dihydro-1,4-benzodioxin-2-yl)methylamine (4.13 g), benzaldehyde (2.65 g) and methylene chloride (25 ml) is stirred for 3 hours at room temperature and the methylene chloride removed via evaporation. A solution of the residue in ethanol (30 ml) is hydrogenated at atmospheric pressure and room temperature in the presence of methanesulphonic acid (2.4 g) and 10% palladium on charcoal (0.4 g). After the calculated quantity of hydrogen is consumed (510 ml), the solution is filtered, the ethanol is removed via evaporation, the residue is made alkaline with saturated aqueous potassium carbonate, and the resulting solution is extracted with ether. Evaporation of the dried ether extract yields an oily residue of N-benzyl-(2,3-dihydro-1,4-benzodioxin-2-yl)methylamine (5.9 g).

reactant | (2,3-dihydro-1,4-benzodioxin-2-yl)methylamine | 4.13 g | O1C(COC2=C1C=CC=C2)CN | C9H11NO2
reactant | benzaldehyde | 2.65 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-benzyl-(2,3-dihydro-1,4-benzodioxin-2-yl)methylamine | 5.9 g | C(C1=CC=CC=C1)NCC1COC2=C(O1)C=CC=C2 | C16H17NO2
